US05075313
2-[2-(5-Methoxyindol-2-yl)ethyl]-3-phenyl-4-(3H)quinazolinone [Route A/D].
The foregoing intermediate product 3-(5-methoxyindol-3-yl)-N-(2-carboxyphenyl)propionamide can be prepared directly from the corresponding Meldrum's Adduct [3-(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-yl)-methyl-5-methoxyindole] (4.41 g, 14.5 mmol) by reaction with an equivalent amount of anthranilic acid (1.99 g, 14.5 mmol) in 30 ml of pyridine. The reaction is carried out at reflux for two hours after which the pyridine is azeotropically removed under vacuum with toluene [Route B].

reactant | 3-(5-methoxyindol-3-yl)-N-(2-carboxyphenyl)propionamide | COC=1C=C2C(=CNC2=CC1)CCC(=O)NC1=C(C=CC=C1)C(=O)O | C19H18N2O4
reactant | 3-(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-yl)-methyl-5-methoxyindole | CC1(OC(C(C(O1)=O)C1=C(NC2=CC=C(C=C12)OC)C)=O)C | C16H17NO5
reactant | anthranilic acid | 14.5 mmol, 1.99 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-Methoxyindol-2-yl)ethyl]-3-phenyl-4-(3H)quinazolinone | COC=1C=C2C=C(NC2=CC1)CCC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C25H21N3O2
